US09255090B2
Synthesis of (3-chloro-4-cyclopropoxy-phenyl)-acetic acid tert-butyl ester (C15H19O3Cl, MW=282.10)
To a solution of 4-bromo-2-chloro-1-cyclopropoxy-benzene (610 mg, 2.46 mmol, 1.00 eq.) in dioxane (20 mL), bis(tri-t-butylphosphine)palladium (0) (193 mg, 0.37 mmol, 0.15 eq.) and 2-tert-butoxy-2-oxoethylzinc chloride (0.5M in diethyl ether) (8.9 mL, 4.44 mmol, 1.80 eq.) were added in sequence. The resulting mixture was stirred at r.t. for 18 hours and further at 60° C. for 4 hours. The mixture was allowed to cool down to r.t. and filtered through Celite. The filtrate was concentrated in vacuo. The residue was purified by flashmaster (column: 100 g, flow: 45 mL/min, 40 fractions of 45 mL, Heptane to Heptane+5% AcOEt) to yield the title compound as a white solid.

reactant | 4-bromo-2-chloro-1-cyclopropoxy-benzene | 2.46 mmol, 610 mg, 1.00 eq. | BrC1=CC(=C(C=C1)OC1CC1)Cl | C9H8BrClO
reactant | 2-tert-butoxy-2-oxoethylzinc chloride | 4.44 mmol, 0.5M, 8.9 mL, 1.80 eq. | [Cl-].C(C)(C)(C)OC(C[Zn+])=O
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | bis(tri-t-butylphosphine)palladium | 0.37 mmol, 193 mg, 0.15 eq. | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | (3-chloro-4-cyclopropoxy-phenyl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CC1=CC(=C(C=C1)OC1CC1)Cl)=O | C15H19ClO3
